US03988373
A mixture of [1-methyl-3-(2,6,6-trimethyl-2-cyclohexenyl)-2(trans)-propenyl]dimethylamine (2.3 g) and ethylbromide (6.0 g) was refluxed for 3 hours, and then the excess ethylbromide was distilled off. The residue was recrystallized from a mixed solvent of benzene and ether to give colorless crystals (0.9 g) of [1-methyl-3-(2,6,6-trimethyl-2-cyclohexenyl)-2(trans)-propenyl]dimethylethylammonium bromide.

reactant | [1-methyl-3-(2,6,6-trimethyl-2-cyclohexenyl)-2(trans)-propenyl]dimethylamine | 2.3 g | CC(\C=C\C1C(=CCCC1(C)C)C)N(C)C | C15H27N
reactant | ethylbromide | 6.0 g | C(C)Br | C2H5Br
product | [1-methyl-3-(2,6,6-trimethyl-2-cyclohexenyl)-2(trans)-propenyl]dimethylethylammonium bromide | 0.9 g | [Br-].CC(\C=C\C1C(=CCCC1(C)C)C)[N+](CC)(C)C | InChI=1S/C17H32N.BrH/c1-8-18(6,7)15(3)11-12-16-14(2)10-9-13-17(16,4)5;/h10-12,15-16H,8-9,13H2,1-7H3;1H/q+1;/p-1/b12-11+;
